US06087380
1-Methyl-2-[N-[4-[N-(2-methylsulphonyl-ethyloxycarbonyl)amidino]-phenyl]-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-ethoxycarbonylmethyl-amide
Prepared analogously to Example 90 from 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-ethoxycarbonylmethyl-amide-hydrochloride and 2-(methylsulphonyl)-ethyl chloroformate. Yield: 72% of theory, C30H33N7O7S (635.7) Rf value: 0.23 (silica gel; dichloromethane/ethanol=19:1) ##EQU84##

reactant | 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-ethoxycarbonylmethyl-amide-hydrochloride | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CC(=O)OCC
reactant | 2-(methylsulphonyl)-ethyl chloroformate | ClC(=O)OCCS(=O)(=O)C | C4H7ClO4S
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-Methyl-2-[N-[4-[N-(2-methylsulphonyl-ethyloxycarbonyl)amidino]-phenyl]-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-ethoxycarbonylmethyl-amide | Yield: 72% | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(NC(=O)OCCS(=O)(=O)C)=N)C)C=C1)CC(=O)OCC | C30H33N7O7S
